datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]1([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])[H:11])([H:8])([H:9])[H:10],69.6636
[O:0]=[S:1]>>[O:0][S:1],0.0
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[H:20]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:14])[H:20])[H:13])[H:12])([H:10])[H:11],12.7612
[C:0]([C:1]([C:2]([O:3][H:10])([H:8])[H:9])[H:7])([H:4])([H:5])[H:6].[O:11][O:12]>>[C:0]([C:1]([C:2]([O:3][H:10])([H:8])[H:9])([H:7])[O:11][O:12])([H:4])([H:5])[H:6],-4.6024
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16])[H:6],40.5011
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([O:13][O:14])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[H:9][O:14][O:13][C:12]([H:15])([H:16])[H:17],68.99416
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[O:10])[H:11]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:9](=[O:10])[H:11],71.16984
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:18][O:19][H:20]>>[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6][H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:18][O:19],-13.7026
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[C:17]([C:16]([H:20])([H:21])[H:22])([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])[H:8],5.77392
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19])[H:15])[H:14])([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])=[C:4]([H:15])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19])([H:9])[H:10],129.327
[C:0]([C:1]1([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:7])[H:8].[C:20]([H:21])([H:22])[H:23]>>[C:0]([C:1]1([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:7])([H:8])[C:20]([H:21])([H:22])[H:23],0.0
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16],-6.6944
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[H:28])([H:25])([H:26])[H:27]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[C:23]([C:22]([H:25])([H:26])[H:27])([C:24]([H:29])([H:30])[H:31])[H:28])[H:13])([H:10])([H:11])[H:12],32.0494
[C:0](=[C:1]([C:2]([O:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0](=[C:1][C:2]([O:3][H:9])([H:7])[H:8])([H:4])[H:5].[H:6][C:10]([H:11])([H:12])[H:13],33.59752
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])[H:14])([H:10])([H:11])[H:12].[H:13][H:30],18.689928
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16],51.6306
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[C:21]([H:22])([H:23])[H:24]>>[C:0]([C:1]1[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:10][C:21]([H:22])([H:23])[H:24],37.748048
